US08937078B2
Step B: Preparation of 1-(4-oxo-3,4,7,8-tetrahydro-[1,4]dioxino[2,3-g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
Lithium hydroxide monohydrate (28.7 mg, 0.684 mmol) and water (0.29 mL) were added to 1-(4-oxo-3,4,7,8-tetrahydro-[1,4]dioxino[2,3-g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (78.0 mg, 0.228 mmol) in THF (0.85 mL). The reaction mixture was stirred at room temperature for 18 h and was then concentrated and the residue re-dissolved in water (5 mL). This solution was brought to pH 1 with 1M aqueous HCl. The resulting precipitate was collected and dried to yield the titled compound (54.3 mg, 75% yield). MS (ESI/Cl): mass calcd. for C14H10N4O5, 314.1; m/z found, 315.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 12.97 (s, 1H), 12.61 (s, 1H), 8.89 (d, J=0.6 Hz, 1H), 8.23 (s, 1H), 7.48 (s, 1H), 7.14 (s, 1H), 4.46-4.29 (m, 4H).

reactant | Lithium hydroxide monohydrate | 0.684 mmol, 28.7 mg | O.[OH-].[Li+]
reactant | water | 0.29 mL | O | H2O
reactant | 1-(4-oxo-3,4,7,8-tetrahydro-[1,4]dioxino[2,3-g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.228 mmol, 78.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC3=C(C=C2C(N1)=O)OCCO3 | C16H14N4O5
solvent | THF | 0.85 mL | C1CCOC1 | C4H8O
product | 1-(4-oxo-3,4,7,8-tetrahydro-[1,4]dioxino[2,3-g]quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 54.3 mg, 75% yield | O=C1NC(=NC2=CC3=C(C=C12)OCCO3)N3N=CC(=C3)C(=O)O | C14H10N4O5
